US09359375B2
(R)-4-(1-amino-4-methyl-1-oxopentan-2-ylamino)-2-(3-methylisoxazol-5-ylamino)benzamide
To a solution of (R)-2-(4-cyano-3-(3-methylisoxazol-5-ylamino)phenylamino)-4-methylpentanamide (20 mg, 0.061 mmol) in DMSO (1 mL), K2CO3 (150 mg, 1.08 mmol) and H2O2 (50% aq., 0.800 mL) were added. After being stirred at 90 C for 5 min, the mixture was purified by HPLC to give the titled compound (1 mg). MS 346.3 (M+H); UV 202.2, 279.2 nm

reactant | (R)-2-(4-cyano-3-(3-methylisoxazol-5-ylamino)phenylamino)-4-methylpentanamide | 0.061 mmol, 20 mg | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)N)CC(C)C)NC1=CC(=NO1)C | C17H21N5O2
reactant | K2CO3 | 1.08 mmol, 150 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 0.800 mL | OO | H2O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-4-(1-amino-4-methyl-1-oxopentan-2-ylamino)-2-(3-methylisoxazol-5-ylamino)benzamide | 1 mg | NC([C@@H](CC(C)C)NC1=CC(=C(C(=O)N)C=C1)NC1=CC(=NO1)C)=O | C17H23N5O3
